US05654298
Trifluoromethanesulphonic anhydride (0.85 ml, 5 mM) was added dropwise to a stirred solution of 1,6-dimethyl-4-hydroxypyridin-2-one [0.7 g, 5 mM] (obtainable as described by Castillo et al., Bull. Soc. Chim. France, 1982, 257) in dry methylene chloride (15 ml). The resulting solution was kept at room temperature for 18 hours, washed with aqueous sodium carbonate solution, dried (MgSO4) and the solvent evaporated. The residual solid was purified by flash chromatography (Merck 9385) using ether as eluant to give 1,6-dimethyl-4-(trifluoromethanesulphonyloxy)-2-pyridone as a solid (0.67 g), m.p. 65°-67° C.; NMR: 2.41(3H,s, CH3) 3.53(3H,s, NCH3), 6.05(1H,s, CH), 6.38(1H,s, CH).

reactant | Trifluoromethanesulphonic anhydride | 5 mM, 0.85 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 1,6-dimethyl-4-hydroxypyridin-2-one | 5 mM, 0.7 g | CN1C(C=C(C=C1C)O)=O | C7H9NO2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1,6-dimethyl-4-(trifluoromethanesulphonyloxy)-2-pyridone | 0.67 g | CN1C(C=C(C=C1C)OS(=O)(=O)C(F)(F)F)=O | C8H8F3NO4S
